US04709032
In 55 ml of water was suspended 20.5 g of N-(2-guanidinoethyl)-5-isoquinolinesulfonamide, the crystalline residue was dissolved by slowly adding of 8.2 ml of an aqueous concentrated hydrochloric acid solution. The pH of the aqueous layer was adjusted to 6.8 with 3.2 ml of a 10N aqueous sodium hydroxide solution by dropwise addition at a temperature of 30° C. to 40° C., and the mixed solution was stirred for a night. The crystalline residue thus obtained was separated by filtration, and the residue was recrystallized from 50 ml of water to give 18.9 g of N-(2-guanidinoethyl)-5-isoquinolinesulfonamide monohydrochloride in a yield of 82%. The melting point of the compound was 236° C.

reactant | N-(2-guanidinoethyl)-5-isoquinolinesulfonamide | 20.5 g | N(C(=N)N)CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C12H15N5O2S
reactant | hydrochloric acid | 8.2 ml | Cl | ClH
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | water | 55 ml | O | H2O
product | N-(2-guanidinoethyl)-5-isoquinolinesulfonamide monohydrochloride | 18.9 g, yield of 82% | Cl.N(C(=N)N)CCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | InChI=1S/C12H15N5O2S.ClH/c13-12(14)16-6-7-17-20(18,19)11-3-1-2-9-8-15-5-4-10(9)11;/h1-5,8,17H,6-7H2,(H4,13,14,16);1H
